US05849732
p-Anisidine (257 g) was dissolved in 514 ml of conc. hydrochloric acid, and under ice-cooling, 1530 ml of an aqueous solution containing 158 g of sodium nitrite was added dropwise to the solution. This mixture was added dropwise under ice-cooling to 3000 ml of an aqueous solution containing 356 g of 4-methoxy-2-tert-butylphenol and 416 g of sodium hydroxide. The resulting mixture was stirred at the same temperature for 15 minutes. Conc. hydrochloric acid (about 400 ml) was added dropwise to the reaction mixture to adjust pH of the mixture to 3, and the precipitated crystals were collected by filtration. The crystals were washed and dried, and recrystallized from a mixed solution of chloroform and ethanol to give 400 g of 2-(4-methoxyphenylazo)-4-methoxy-6-tert-butylphenol (yield: 64%, melting point: 125°-127° C., IR: 1600 cm-1).

reactant | p-Anisidine | 257 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | sodium nitrite | 158 g | N(=O)[O-].[Na+]
reactant | 4-methoxy-2-tert-butylphenol | 356 g | COC1=CC(=C(C=C1)O)C(C)(C)C | C11H16O2
reactant | sodium hydroxide | 416 g | [OH-].[Na+]
solvent | hydrochloric acid | 514 ml | Cl | ClH
solvent | hydrochloric acid | about 400 ml | Cl | ClH
product | 2-(4-methoxyphenylazo)-4-methoxy-6-tert-butylphenol | 400 g, yield: 64% | COC1=CC=C(C=C1)N=NC1=C(C(=CC(=C1)OC)C(C)(C)C)O | C18H22N2O3
